US03944410
1-Trifluoromethyl-3-phenyl-3-hydroxyurea (11 grams; 0.05 mol) is dissolved in a cooled (10°C) 2N aqueous sodium hydroxide solution (35 ml). Ethyl chloroformate (6 ml; 0.06 mol) is added dropwise at 10° to 15°C with stirring. Stirring is continued for a period of about 1/2 hour after the addition is completed resulting in the formation of a precipitate. The precipitate is recovered by filtration, washed with water and dried to yield 2-phenyl-4-trifluoromethyl-1,2,4-oxadiazolidine-3,5-dione.

reactant | 1-Trifluoromethyl-3-phenyl-3-hydroxyurea | 0.05 mol, 11 grams | FC(NC(=O)N(O)C1=CC=CC=C1)(F)F | C8H7F3N2O2
reactant | sodium hydroxide | 2N, 35 ml | [OH-].[Na+]
reactant | Ethyl chloroformate | 0.06 mol, 6 ml | ClC(=O)OCC | C3H5ClO2
product | 2-phenyl-4-trifluoromethyl-1,2,4-oxadiazolidine-3,5-dione | C1(=CC=CC=C1)N1OC(N(C1=O)C(F)(F)F)=O | C9H5F3N2O3
